US05116844
2-(2,4-Dichlorophenyl)-3-(pyridazin-4-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol
Treatment of 4-ethylpyridazine (2.16 g) with lithium diisopropylamide (0.02 mole) in dry tetrahydrofuran followed by 1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone (5.12 g) according to the method of Example 9(ii) gave the title compound, diastereoisomeric pair A, (1.24 g), m.p. 174°-177°;

reactant | 4-ethylpyridazine | 2.16 g | C(C)C1=CN=NC=C1 | C6H8N2
reactant | lithium diisopropylamide | 0.02 mole | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone | 5.12 g | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)=O | C10H7Cl2N3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2,4-Dichlorophenyl)-3-(pyridazin-4-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(C(C)C1=CN=NC=C1)O | C16H15Cl2N5O
